US09126981B2
Synthesis of Ethyl 2-(1-allylhydrazinyl)-2-methylpropanoate (Compound XIV-1)
To a solution of 70%-allylhydrazine (7.73 ml, 75 mmol) and triethylamine (1048 ml, 75 mmol) in chloroform (25 ml) was added ethyl 2-bromo-2-methylpropanoate (9.75 g, 50 mmol) and the mixture was sittred for 1 hr and then refluxed overnight. The reaction mixture was diluted with ethylacetate (150 ml) and washed with water (100 ml) and brine (100 ml). Then the organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The crude residue was subjected to silica gel column chromatography (eluent: chloroform:methanol=95:5) to obtain the title compound (5.0 g, 54%).

reactant | allylhydrazine | 75 mmol, 7.73 ml | C(C=C)NN | C3H8N2
reactant | triethylamine | 75 mmol, 1048 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromo-2-methylpropanoate | 50 mmol, 9.75 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethylacetate | 150 ml | C(C)OC(C)=O | C4H8O2
product | Ethyl 2-(1-allylhydrazinyl)-2-methylpropanoate | 5.0 g, 54% | C(C=C)N(N)C(C(=O)OCC)(C)C | C9H18N2O2
